US06271225B1
In the same manner as in Starting Material Synthesis Example 4 and using methyl 2-amino-5-methylbenzo[b]thiophene-3-carboxylate, 2-fluoronitrobenzene and dimethyl sulfoxide, methyl 2-(2-nitroanilino)-5-methylbenzo[b]thiophene-3-carboxylate was obtained.

reactant | methyl 2-amino-5-methylbenzo[b]thiophene-3-carboxylate | NC1=C(C2=C(S1)C=CC(=C2)C)C(=O)OC | C11H11NO2S
reactant | 2-fluoronitrobenzene | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | methyl 2-(2-nitroanilino)-5-methylbenzo[b]thiophene-3-carboxylate | [N+](=O)([O-])C1=C(NC2=C(C3=C(S2)C=CC(=C3)C)C(=O)OC)C=CC=C1 | C17H14N2O4S
